Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Percocet / Banana / latex / Macrobid / melatonin
 
Attending: ___.
 
Chief Complaint:
Altered mental status 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o COPD, CHF, colon cancer s/p colectomy w/ ostomy, urinary 
incontinence w/ Suprapubic catheter p/w 4h AMS at rehab after 
recent admission for PNA. Further collateral is not able to be 
obtained at this time as patient is confused/grandson not 
present at admission.  
 
 In the ED, initial vitals were: 103.3 92 175/47 26 92% RA  
 - Exam notable for: difficulty following commands and 
responsive to verbal stimuli but altered, decr b/l breath sounds 
 
 - Labs notable for: Lactate 3.4 -> 1.3, WBC 17.3, H/H 7.6/___.3, 
Flu positive, trop neg x1 
pH 7.44 
pCO2 35 
pO2 62 
HCO3 25 
BaseXS 0 

 - Imaging: CXR with interval decrease in basilar opacities.  
 - Cefepime, vancomycin, Tamiflu, acetaminophen and 1L IVF was 
given.  
 
Upon arrival to the floor, patient is A&Ox2 (name, year, knows 
she's in hospital but doesn't know which or why) and answers 
questions appropriately. She reports her breathing is "fair" and 
endorses mild RLQ pain. Unable to give a more detailed history. 

 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI
 
Past Medical History:
Anemia  
 Anxiety/Depression  
 Cataracts  
 COPD  
 Hip fracture s/p repair  
 Hyperlipidemia  
 Hypothyroidism  
 Hypertension  
 s/p removal of left parotid gland  
 Osteoarthritis  
 Osteoporosis  
 Peripheral vascular disease  
 Colon cancer in ___  
 Urinary incontinence  
 History of left adnexal cystic lesion on pelvic MRI ___  
 unchanged from prior.  
 
Social History:
___
Family History:
 Mother died of MI at age ___. Father with stroke, cancer at age  

 ___. Daughter w/ PE in ___ she also has a history of DVT after 
 
 car accident in ___.  
 
Physical Exam:
Exam on admission:
=====================
VITAL SIGNS -  98.0  73  136/54  26  97% 2L
GENERAL -  NAD, very frail elderly lady
HEENT -  NCAT, PERRL, EOMI
NECK -  supple
CARDIAC -  RRR, nl s1s2
LUNGS -  distant breath sounds, but no w/c/r appreciated
ABDOMEN -  soft, mild RLQ tenderness, ostomy bag and Suprapubic 
catheter in place and secured
EXTREMITIES -  wwp, no edema
NEUROLOGIC -  A&Ox2, CN2-12 intact, motor grossly normal
LABS: reviewed. See below.  
.
Exam on discharge:
=====================
Vitals:  97.5  80  144/66  21  94% 2L
General: A&Ox3, NAD
HEENT: sclera anicteric, MMM  
Neck: supple
Lungs: distant breath sounds, no wheezes or crackles
CV: irregular rate and rhythm, normal S1 + S2, diastolic murmur
ABDOMEN -  soft, mild RLQ tenderness, ostomy bag and Suprapubic 
catheter in place and secured
EXTREMITIES -  wwp, no edema
NEUROLOGIC -  CN2-12 grossly intact, motor grossly normal
 
Pertinent Results:
Labs on admission:
====================
___ 12:55PM BLOOD WBC-17.3*# RBC-4.13 Hgb-11.3 Hct-36.1 
MCV-87 MCH-27.4 MCHC-31.3* RDW-20.2* RDWSD-61.8* Plt ___
___ 12:55PM BLOOD Neuts-89.5* Lymphs-6.3* Monos-3.4* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-15.44* AbsLymp-1.09* 
AbsMono-0.58 AbsEos-0.00* AbsBaso-0.04
___ 12:55PM BLOOD ___ PTT-25.7 ___
___ 12:55PM BLOOD Plt ___
___ 02:13PM BLOOD Glucose-131* UreaN-26* Creat-0.9 Na-144 
K-3.3 Cl-107 HCO3-22 AnGap-18
___ 02:13PM BLOOD ALT-15 AST-23 CK(CPK)-20* AlkPhos-57 
TotBili-0.6
___ 12:55PM BLOOD cTropnT-0.03*
___ 02:13PM BLOOD CK-MB-<1
___ 05:15AM BLOOD ___
___ 02:13PM BLOOD Albumin-3.4* Calcium-8.6 Phos-3.7 Mg-1.8
___ 05:15AM BLOOD Vit___-___*
___ 05:15AM BLOOD Digoxin-2.4*
___ 05:26AM BLOOD ___ pO2-62* pCO2-35 pH-7.44 
calTCO2-25 Base XS-0
___ 01:22PM BLOOD Hgb-13.0 calcHCT-39
.
Imaging:
====================
___ CXR:
IMPRESSION:  
Previously seen basilar opacities have significantly decreased 
in the 
interval, with possible mild residua remaining at the right lung 
base. 
.
___ CXR:
IMPRESSION:  
The lungs are hyperinflated.  There is an increase in 
heterogeneous 
consolidation at the right lung base concerning for developing 
pneumonia.  No pleural effusion or pneumothorax.  The left lung 
is clear.  Heart size and mediastinal contours are normal. 
.
Microbiology:
====================
BCx negative x 2
.
URINE CULTURE (Final ___: 
YEAST.    >100,000 CFU/mL. 
.
Labs on discharge:
====================
___ 07:46AM BLOOD WBC-7.7 RBC-2.63* Hgb-7.1* Hct-24.0* 
MCV-91 MCH-27.0 MCHC-29.6* RDW-17.5* RDWSD-55.7* Plt ___
___ 07:46AM BLOOD Plt ___
___ 07:46AM BLOOD Glucose-98 UreaN-23* Creat-0.9 Na-144 
K-3.4 Cl-107 HCO3-26 AnGap-14
___ 07:46AM BLOOD Calcium-8.9 Phos-3.8 Mg-1.___ h/o COPD, CHF, afib, MR/TR, remote colon cancer s/p 
colectomy w/ ostomy, and suprapubic catheter p/w AMS, found to 
be influenza A positive, with hospital course complicated by 
worsening dyspnea with new pneumonia seen on CXR. Initially 
treated with vanc/ceftazidime, transitioned to levoquin for 7 
day course (last day ___. Also s/p 5 days of Tamiflu. She 
intermittently required supplemental oxygen (2L nasal cannula). 
She continued azithromycin for COPH prophylaxis. Her digoxin 
stopped as she was supratherapeutic on it, and noted dizziness 
which may be a side effect. She had a mild hypokalemia and 
hypernatremia that were managed with repletion and IV fluids, 
respectively. An incidental finding of asymptomatic funguria was 
noted on urine culture (>100k yeast), and patient without any 
dysuria or other localizing signs of infection.

Transitional issues:
#STARTED levofloxacin 500mg Q48 for 7 day course treatment for 
pneumonia, last day ___ (two doses ___ and ___
#Please re-check electrolytes at next outpatient appointment, 
check Na and K
#STOPPED digoxin
#DECREASED mirtazapine from 15mg to 7.5mg due to fatigue, 
considering stopping this medication as outpatient
#Consider stopping statin
#STOPPED tramadol
#Repeat chest x-ray in 6 weeks to assess for resolution of 
pneumonia
#GOAL O2: >88% on RA. Supplemental O2 not required for O2 sat. 
above 88%.
#Code status: DNR / Ok to intubate
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
3. Aspirin 81 mg PO DAILY 
4. Calcium Carbonate 1000 mg PO BID 
5. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
6. Mirtazapine 15 mg PO QHS 
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 20 mg PO BID 
9. Pravastatin 40 mg PO QPM 
10. Senna 8.6 mg PO DAILY 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. Clarinex (desloratadine) 5 mg oral DAILY 
13. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
14. FoLIC Acid 1 mg PO DAILY 
15. Pyridoxine 250 mg PO DAILY 
16. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation DAILY 
17. Vitamin D ___ UNIT PO DAILY 
18. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
19. Levothyroxine Sodium 137.5 mcg PO DAILY 
20. Torsemide 10 mg PO 3X/WEEK (___) 
21. Metoprolol Succinate XL 100 mg PO DAILY 
22. Digoxin 0.25 mg PO DAILY 
23. Lidocaine 5% Patch 1 PTCH TD QAM 
24. Donepezil 10 mg PO QHS 
25. Azithromycin 250 mg PO Q24H 
26. Cefpodoxime Proxetil 400 mg PO Q24H 

 
Discharge Medications:
1.  Artificial Tears ___ DROP BOTH EYES PRN Dry eyes  
2.  Levofloxacin 500 mg PO Q48H Duration: 2 Doses 
To be taken on ___ and ___.  Mirtazapine 7.5 mg PO QHS  
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
5.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB  
6.  Aspirin 81 mg PO DAILY  
7.  Azithromycin 250 mg PO Q24H  
8.  Calcium Carbonate 1000 mg PO BID  
9.  Clarinex (desloratadine) 5 mg oral DAILY  
10.  Cyanocobalamin 1000 mcg IM/SC MONTHLY  
11.  Donepezil 10 mg PO QHS  
12.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
13.  FoLIC Acid 1 mg PO DAILY  
14.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H  
15.  Levothyroxine Sodium 137.5 mcg PO DAILY  
16.  Lidocaine 5% Patch 1 PTCH TD QAM  
17.  Metoprolol Succinate XL 100 mg PO DAILY  
18.  Multivitamins 1 TAB PO DAILY  
19.  Omeprazole 20 mg PO BID  
20.  Pravastatin 40 mg PO QPM  
21.  Pyridoxine 250 mg PO DAILY  
22.  Senna 8.6 mg PO DAILY  
23.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation DAILY  
24.  Tiotropium Bromide 1 CAP IH DAILY  
25.  Torsemide 10 mg PO 3X/WEEK (___)  
26.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary:
Influenza A
Pneumonia
Altered mental status

Secondary:
COPD
congestive heart failure

 
Discharge Condition:
Confused sometimes, generally clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure treating you for flu and pneumonia. When you 
arrived at ___, you tested positive for the flu which was 
causing a fever as well as some confusion and tiredness. Your 
initial chest x-ray showed improvement of your prior pneumonia. 
While being treated for the flu and dehydration with Tamiflu and 
IV fluids, you developed a new pneumonia that was seen on a 
second chest x-ray and required antibiotics and fluids. Due to 
decreased oral intake of food and beverage, you developed 
elevated levels of sodium in your blood, which improved after 
you were given IV fluids.

Please weigh yourself every morning, and call your doctor if 
your weight goes up more than 3 lbs. Please continue to take all 
your regular medications, and follow up at any appointments that 
are scheduled. 

Again, it has been a pleasure taking part in your care, and we 
wish you the best.
- Your ___ care team
 
Followup Instructions:
___